* Worst-case gate drive: MOSFET threshold at the datasheet limit, 3.3 V rail at
* its low tolerance. Loads are limited to the range where a cold .op is
* trustworthy (see core_op.cir); a behavioural-load sweep lands on a spurious
* branch of the macro-model here (V(OUTA) showed 8.4 V on a 3.2 V rail).
* The MOSFET model is a sensitivity variant, not a vendor model.
.include ../models/OPAx333.LIB
.include ../models/2N7002_VTO25.lib
.include ../inc/solver.inc
.include ../inc/core.inc
V8 BONE_P 0 8.0016
V33 V3V3 0 3.2
.param RLOAD=10k
.step param RLOAD list 1k 10k 50k 65k
.op
.meas op I_BONE param I(R_BONE)
.meas op I_SENSE_R param I(R10)
.meas op V_ISET param V(I_SET)
.meas op V_SENSE param V(I_SENSE)
.meas op V_GATE param V(STIM_GATE)
.meas op V_OUTA param V(OUTA)
.meas op V_BONE param V(BONE_P,BONE_N)
.options plotwinsize=0 numdgt=7
.end
